US06355799B1
Preparation of N-(2-amino-4-chloro-6-fluoro-3-isopropyloxyphenyl)tetrahydrophthalimide (Compound no. 8-4)
A mixture of 2-amino-6-chloro-4-fluoro-3-(tetrahydrophthalimido)phenol (0.31 g), isopropyl iodide (1.2 ml), potassium carbonate (0.14 g), and acetonitrile (5 ml) was heated under reflux for 2 hr. The solvent and excess reagent were removed under reduced pressure. The residue was purified by a silica gel column, eluted with ethyl acetate to give the title product (0.21 g).

reactant | 2-amino-6-chloro-4-fluoro-3-(tetrahydrophthalimido)phenol | 0.31 g | NC1=C(C(=CC(=C1N1C(C2C(C1=O)CCC=C2)=O)F)Cl)O | C14H12ClFN2O3
reactant | isopropyl iodide | 1.2 ml | C(C)(C)I | C3H7I
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(2-amino-4-chloro-6-fluoro-3-isopropyloxyphenyl)tetrahydrophthalimide | 0.21 g | NC1=C(C(=CC(=C1OC(C)C)Cl)F)N1C(C2C(C1=O)CCC=C2)=O | C17H18ClFN2O3
